US03971819
3-(3,4-Methylenedioxybenzylamino)-4-phenoxy-5-sulphamyl-benzoic acid
To a suspension of 3-amino-4-phenoxy-5-sulphamyl-benzoic acid (1.54 g) in acetic acid (30 ml), piperonal (0.75 g) was added. After the addition of platinum oxide (25 mg) and a catalytic amount of p-toluenesulphonic acid, the reaction mixture was hydrogenated at room temperature and 1.1 atmospheres hydrogen pressure until the hydrogen uptake had become negligible. Then the reaction mixture was filtered by suction. The filter cake was suspended in water (100 ml), and the pH was adjusted to 8.5 by addition of lithium hydroxide. After the catalyst had been removed from the resulting solution, the 3-(3,4-methylenedioxybenzylamino)-4-phenoxy-5-sulphamyl-benzoic acid was precipitated from the filtrate by addition of 4N hydrochloric acid until the pH was 3. After recrystallization from methanol, the melting point was 229°-230°C.

reactant | 3-amino-4-phenoxy-5-sulphamyl-benzoic acid | 1.54 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | piperonal | 0.75 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 25 mg | [Pt]=O
product | 3-(3,4-Methylenedioxybenzylamino)-4-phenoxy-5-sulphamyl-benzoic acid | C1OC=2C=C(CNC=3C=C(C(=O)O)C=C(C3OC3=CC=CC=C3)S(N)(=O)=O)C=CC2O1 | C21H18N2O7S
